US04775756
A mixture of 6.5 g of sodium methylate, 21.6 g of guanidine carbonate and 12.8 g of α-(4-amino-3,5-dimethoxy-benzyl)-β-morpholino - acrylonitrile in 120 ml of absolute dimethyl sulphoxide was stirred at 120° C. for 60 hours. Subsequently, the mixture was diluted with 1.2 liters of water and extracted with two 2 liter portions of ethyl acetate. The ethyl acetatae extract was washed with two 1 liter portions of water, dried over magnesium sulphate and evaporated in vacuo. After recrystallisation of the residue from methanol, there was obtained 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine of melting point 215°-216° C.

reactant | sodium methylate | 6.5 g | C[O-].[Na+]
reactant | guanidine carbonate | 21.6 g | C(O)(O)=O.NC(=N)N
reactant | α-(4-amino-3,5-dimethoxy-benzyl)-β-morpholino - acrylonitrile | 12.8 g | NC1=C(C=C(CC(C#N)=CN2CCOCC2)C=C1OC)OC | C16H21N3O3
solvent | dimethyl sulphoxide | 120 ml | CS(=O)C | C2H6OS
solvent | water | 1.2 liters | O | H2O
product | 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)N)OC | C13H17N5O2
